*$
* PART NUMBER: NJM2729
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2008
.Subckt NJM2729 -IN +IN  V- OUT V+  
X_U1	+IN -IN V+ V- OUT	NJM2729_SUB
.ENDS NJM2729
*$
.subckt NJM2729_SUB 1 2 3 4 5
c1   11 12 8.8127E-12		
c2    6  7 27.750E-12
cee  10 99 2.550E-12
dc    5 53 dy
de   54  5 dy
dlp  90 91 dx
dln  92 90 dx
dp    4  3 dx
egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
fb    7 99 poly(5) vb vc ve vlp vln 0 2.0238E9 -1E3 1E3 2E9 -2E9
ga    6  0 11 12 180.07E-5
gcm   0  6 10 99 23.50E-11
iee   3 10 dc 1.7700E-6
hlim 90  0 vlim 1K
q1   11  2 13 qx1
q2   12  1 14 qx2
r2    6  9 100.00E3
rc1   4 11 4.8229E3
rc2   4 12 4.8229E3
re1  13 10 8.7331E3
re2  14 10 8.7331E3
ree  10 99 22.216E6
ro1   8  5 30
ro2   7 99 30
rp    3  4 18.098E3
vb    9  0 dc 0
vc    3 53 dc 2.7979
ve   54  4 dc 2.7979
vlim  7  8 dc 0
vlp  91  0 dc 20
vln   0 92 dc 20
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=638)
.model qx2 PNP(Is=800.520E-18 Bf=818)
.ends
*$
