*$
* PART NUMBER: NJM2749
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (C) Bee Technologies Inc. 2008
.Subckt NJM2749 OUTA -INA +INA V- +INB -INB OUTB V+ 
X_U1     +INA -INA V+ V- OUTA NJM2749_SUB
X_U2     +INB -INB V+ V- OUTB NJM2749_SUB
.ends  NJM2749
.subckt NJM2749_SUB 1 2 3 4 5
  c1   11 12 2.8868E-12
  c2    6  7 10.000E-12
  css  10 99 1.0000E-30
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 35.368E6 -1E3 1E3 35E6 -35E6
  ga    6  0 11 12 113.10E-6
  gcm   0  6 10 99 2.8409E-9
  iss   3 10 dc 130.00E-6
  hlim 90  0 vlim 1K
  j1   11  2 10 jx1
  j2   12  1 10 jx2
  r2    6  9 100.00E3
  rd1   4 11 8.8419E3
  rd2   4 12 8.8419E3
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 1.8000E3
  rss  10 99 1.5385E6
  vb    9  0 dc 0
  vc    3 53 dc 2.2979
  ve   54  4 dc 2.2979
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model jx1 PJF(Is=24.250E-12 Beta=98.392E-6 Vto=-.9996)
.model jx2 PJF(Is=11.750E-12 Beta=98.392E-6 Vto=-1.000400)
.ends
*$
