*$
* PART NUMBER:NJM2114
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2007
.Subckt NJM2114 OUT1 -IN1 +IN1 V- +IN2 -IN2 OUT2 V+
X_U1     +IN1 -IN1 V+ V- OUT1 NJM2114_ME
X_U2     +IN2 -IN2 V+ V- OUT2 NJM2114_ME
.ends  NJM2114
.subckt NJM2114_ME 1 2 3 4 5
  c1   11 12 8.6603E-12
  c2    6  7 30.000E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 2.4088E6 -1E3 1E3 2E6 -2E6
  ga    6  0 11 12 2.9641E-3
  gcm   0  6 10 99 26.465E-9
  iee  10  4 dc 445.15E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   3 11 337.37
  rc2   3 12 337.37
  re1  13 10 220.41
  re2  14 10 220.41
  ree  10 99 449.28E3
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 1.6531E3
  vb    9  0 dc 0
  vc    3 53 dc 1.8063
  ve   54  4 dc 2.8063
  vlim  7  8 dc 0
  vlp  91  0 dc 60
  vln   0 92 dc 60
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 NPN(Is=800.00E-18 Bf=437.50)
.model qx2 NPN(Is=805.9608E-18 Bf=447.55)
.ends
*$