*$
*PART NUMBER: NJU7018
*MANUFACTURER: NEW JAPAN RADIO
*CMOS OPAMP
*All Rights Reserved Copyright (c) Bee Technologies Inc. 2006
.SUBCKT nju7018 OUT1 -IN1 +IN1 VSS +IN2 -IN2 OUT2 VDD
X_U1 +IN1 -IN1 VDD  VSS OUT1 nju7018_s
X_U2 +IN2 -IN2 VDD  VSS OUT2 nju7018_s
.ENDS nju7018
.SUBCKT nju7018_s   IN+ IN- V+ V- OUT
m1 3 IN- 6 V- nix l=6u w=25u
m2 4 7 6 V- nix l=6u w=25u
m3 8 IN- 5 5 pix l=6u w=23.15u   
m4 9 7 5 5 pix l=6u w=25u
eos 7 IN+ poly(1) 25 98 1e-3 0.451   
iin1 IN+ 98 1.25p
iin2 IN- 98 1.25p
ios IN- IN+ 0.5p
i1 V+ 5 50u
i2 6 V- 50u
r1 V+ 3 4.833k
r2 V+ 4 4.833k
r3 8 V- 4.833k
r4 9 V- 4.833k
d3 5 V+ dx
d4 V- 6 dx
eref 98 0 poly(2) V+ 0 V- 0 0 0.75 0.75
g1 98 21 poly(2) 4 3 9 8 0 145u 145u
rg 21 98 18.078e6
cc 21 OUT 20p			
d1 21 22 dx
d2 23 21 dx
v1 V+ 22 1.237
v2 23 V- 1.237
ecm 24 98 poly(2) IN+ 98 IN- 98 0 0.5 0.5
r5 24 25 1e6
r6 25 98 1.3k              
c1 24 25 0.75p
isy V+ V- 450.4u
gsy V+ V- poly(1) V+ V- -3.334e-4 6.667e-5
ep V+ 39 poly(1) 98 21 0.8925 1
en 38 V- poly(1) 21 98 0.8925 1
m15 OUT 39 V+ V+ pox l=1.5u w=9u     
m16 OUT 38 V- V- nox l=1.5u w=33u    
c15 OUT 39 1p			
c16 OUT 38 1p				
.model dx d(rs=1 cjo=0.1p)
.model nix nmos( vto=.75 kp=205.5u rd=1 rs=1
+ rg=1 rb=1 cgso=4e-9 cgdo=4e-9 cgbo=16.667e-9
+ cbs=7e-12 cbd=7e-12)
.model nox nmos( vto=0.48 kp=195u rd=1.5 rs=1.5
+ rg=1 rb=1 cgso=66.667e-12 cgdo=66.667e-12
+ cgbo=125e-9 cbs=2.34e-13 cbd=2.34e-13)
.model pix pmos( vto=-0.75 kp=205.5u rd=1 rs=1
+ rg=1 rb=1 cgso=4e-9 cgdo=4e-9 cgbo=16.667e-9
+ cbs=2.34e-13 cbd=2.34e-13)		
.model pox pmos( vto=-0.75 kp=195u rd=.5 rs=.5
+ rg=1 rb=1 cgso=66.667e-12 cgdo=66.667e-12
+ cgbo=125e-9 cbs=15.38e-11 cbd=15.38e-11)	
.ends nju7018_s
*$