* Z:\home\mainster\CODES_local\LTSpice_projects\ua741_diskret\ua741_diskret_moreRs_v2.asc
Q1 N010 in+ e1 0 NPN1
Q8 N005 N003 V+ 0 PNP1
Q2 N010 in- e2 0 NPN1
Q4 N024 N020 e2 0 PNP1
Q3 N023 N020 e1 0 PNP1
Q5 N029 N032 N036 0 NPN1
Q6 N032 N036 off+ 0 NPN1
Q7 Idv N036 off- 0 NPN1
R1 N036 V- 50k
XU1 V+ vdc_single V={Vplus}
XU2 V- vdc_single V={-Vplus}
Q9 N021 N003 V+ 0 PNP1
R2 N038 V- 5k
Q10 N021 N034 N038 0 NPN1
Q11 N034 N034 V- 0 NPN1
R3 N004 N034 39k
Q12 N004 N004 V+ 0 PNP1
Q13 N012 N004 V+ 0 PNP1
Q14 N022 N026 N035 0 NPN1
Q15 N022 N035 N037 0 NPN1
R4 N035 V- 50k
Q18 V+ N013 N016 0 NPN1 {m}
Q19 N013 N016 out 0 NPN1
R5 N016 out 25
Q20 V- N022 N031 0 PNP1 {m}
R6 out N031 50
C1 N012 N026 {Ccomp}
XIdv Idv N026 arrow_curr arrow_curr Rsh=1m
RL 0 0 10k
XIb34 N020 N021 arrow_curr arrow_curr Rsh=1m
B1 DV 0 V=V(e1)-V(e2)
XU5 N012 N013 arrow_curr arrow_curr Rsh=1m
XU6 N003 N010 arrow_curr arrow_curr Rsh=1m
XIC3 N023 N032 arrow_curr arrow_curr Rsh=1m
XIC4 N024 Idv arrow_curr arrow_curr Rsh=1m
XIC5 V+ N029 arrow_curr arrow_curr Rsh=1m
V2 N014 0 0 AC 1
E1 in+ in- N014 0 1
R7 0 in- 100meg
XI0 N005 N010 arrow_curr arrow_curr Rsh=1m
R8 off+ V- 1k
R9 off- V- 1k
Q21 N026 N037 V- 0 NPN1
R10 N037 V- 50
XU3 off+ off- V- pot R={Ro} T={off}
Q16 N012 N018 N022 0 NPN1
R11 N012 N018 4.5k
R12 N018 N022 7.5k
B2 Rpr 0 V=Ro*off
B3 Rpl 0 V=Ro*(1-off)
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.bjt
.param stimp = 400m
.param Vplus=10V
.param m=5
.param Vbe0 = 0.6V
.param Veb0 = 0.6V
.param VT=26mV
.param betaNPN=200
.param betaPNP=100
.param alpha=0.991
.param Ic0=100u
.param Ccomp=15p
* .ac oct 100 .1 10meg
.model NPN1 npn ( Is={Ic0/exp(Vbe0/VT)}  Bf={betaNPN} VA=50V)
.model PNP1 pnp ( Is={Ic0/exp(Veb0/VT)}  Bf={betaPNP} VA=50V)
.tran 3m startup
* .dc V2 {-stimp} {stimp} .1m
* .dc I1 0 100u 1u
* .ac oct 100 10 10meg
* .dc V1 -1m 1m 1u
.param Ro=100k
.param off = 0.650514
* ; Find offset poti setting to compensate Vio\n;------------------------------------------------------------\n.step param off .01 .99 .01\n.meas Roffs_set WHEN V(out)=0 falling=1\n.meas RoffsR param Ro*Roffs_set\n.op
;.meas I0m FIND Ic(Q8) at=1m
.param I0m=16u
.meas I0ma FIND Ic(Q8) at=100
.meas Gmdv param alpha*I0m/(2*VT) 
.meas SR param alpha*I0m/Ccomp 
.meas ft param Gmdv/(2*pi*Ccomp)
.meas ft2 WHEN mag(V(out))=1
.op
.lib ..\sym\EXTRA\Misc\pot.lib
.lib EIT_sub/vdc_single.sub
.lib MDB_sub/arrow_curr.sub
.backanno
.end
