* Z:\home\mainster\CODES_local\LTSpice_projects\praxissem_woche_2014\wanze_107MHz.asc
V1 N006 0 {Vv1}
R1 e 0 {Re}
C1 b e 68p
C2 e 0 68p
C3 N005 in {Cj}
C4 in 0 {Co}
XU1 N002 vdc_single V={Vcc}
R2 VCC b {Rb}
L1 N005 b {Lo}
D1 in N005 1N4148
R4 in 0 100k
C5 in N006 100n
XU2 VCC b e bfr92
V2 N002 NC_01 -.8V
XU4 N002 VCC jumperResistor Rjump=1u Rin=1t Rout=1t
XU3 N003 P001 N004 bfr92
XU5 N001 vdc_single V=20V
I1 0 P001 0
R3 N004 0 {Re}
R5 N001 N003 10
XU6 Rb vdc_single V={Rb}
XU7 Re vdc_single V={Re}
XU8 N007 vdc_single V={Vcc}
.model D D
.lib C:\Program Files (x86)\LTC_ALL\LTspiceIV_4.18_multiLibs\lib\cmp\standard.dio
.tran 20m
.param fa = 100Meg
 
.param Vcc = 3V
.param Ve0 = 1.5V
.param Ic0 = 5mA
.param Vbe0 = 0.6V
.param B = 124
.param A = B/(1+B)
.param Re = {Ve0*A/Ic0}
.param Rb = {(Vcc-Vbe0-Ic0/A*Re)/(Ic0/B)}
;.param Rb = 10.7k
;.param Re = 750
 
 
.param Lo = 100n
.param Co = 47n
.param Cj = 5p
.param Vv1=0
* hfe:\n124 @ 5mA
.ic V(b) = 3.8V
.lib EIT_sub\vdc_single.sub
.lib MDB_sub/jumperRes.sub
.lib Sborka.lib
.backanno
.end
